*Ngspice Common Source Circuit
.lib "../../Models/libs.tech/ngspice/sky130.lib.spice" ss

*****************
** main netlist
*****************
X1 d g 0 0 sky130_fd_pr__nfet_03v3_nvt W=0.42 L=0.8
R1 d vdd 1000

V1 g 0 DC 1 AC 1 SIN(0 1 1k)
VDD vdd 0 3.3


*****************
** Analysic
*****************
.control
set appendwrite

shell  rm -rf ./ngspice_results/sky130_fd_pr__nfet_03v3_nvt_dc_W_0.42_L_0.8_ss_ngspice.csv

DC v1 0 3.3 0.1
wrdata ./ngspice_results/sky130_fd_pr__nfet_03v3_nvt_dc_W_0.42_L_0.8_ss_ngspice.csv  -I(vdd)

.endc
.end
